US07335658B2
4-[6-(3-METHYLBUTYLCARBAMOYL)PYRIDAZIN-3-YL]PIPERAZINE-1-CARBOXYLIC ACID T-Butyl Ester
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazine-1-carboxylic acid t-butyl ester, the title compound was obtained as a white solid (83% yield). 1H NMR (500 MHz, CDCl3) δ 8.03, 7.86, 6.97, 3.75, 3.56-3.63, 3.49, 1.65-1.76, 1.52, 0.94. MS (ES+) m/z 378 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
reactant | piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-[6-(3-METHYLBUTYLCARBAMOYL)PYRIDAZIN-3-YL]PIPERAZINE-1-CARBOXYLIC ACID T-Butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=CC1)C(NCCC(C)C)=O | C19H31N5O3
